US07960552B2
To a solution of 2,6-dimethylphenol (503 mg, 4.12 mmol), triphenylphosphine (1.08 g, 4.12 mmol) and ethyl 5-cyclobutyl-3-(hydroxymethyl)-4-isoxazolecarboxylate (929 mg, 4.12 mmol, from multiple batches) in toluene (10 mL) was added diisopropyl azodicarboxylate (0.741 mL, 4.12 mmol) dropwise. The solution was heated in a microwave reactor to 90° C. for 10 minutes. The solution was then concentrated and the residue was purified by chromatography (silica gel, 2.5% acetone in hexanes) to afford ethyl 5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolecarboxylate (1.11 g, 81%). 1H-NMR (400 MHz, DMSO-d6) δ 7.01-6.90 (m, 3H), 5.02 (s, 2H), 4.20 (q, J=7 Hz, 2H), 4.20-4.10 (m, 1H), 2.37-2.30 (m, 4H), 2.14 (s, 6H), 2.11-2.01 (m, 1H), 1.95-1.85 (m, 1H), 1.22 (t, J=7 Hz, 3H).

reactant | 2,6-dimethylphenol | 4.12 mmol, 503 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | triphenylphosphine | 4.12 mmol, 1.08 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 5-cyclobutyl-3-(hydroxymethyl)-4-isoxazolecarboxylate | 4.12 mmol, 929 mg | C1(CCC1)C1=C(C(=NO1)CO)C(=O)OCC | C11H15NO4
reactant | diisopropyl azodicarboxylate | 4.12 mmol, 0.741 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-cyclobutyl-3-{[(2,6-dimethylphenyl)oxy]methyl}-4-isoxazolecarboxylate | 1.11 g, 81% | C1(CCC1)C1=C(C(=NO1)COC1=C(C=CC=C1C)C)C(=O)OCC | C19H23NO4
